US08034812B2
Production of 1,3-dimethyl-N-{2-methyl-5-[(2-{[(methylsulfonyl)acetyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
In the same manner as in Example 279 and using (methylsulfonyl)acetic acid (100 mg, 0.73 mmol), tetrahydrofuran (1.5 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (63 μL, 0.73 mmol), N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride (200 mg, 0.48 mmol) and N,N-dimethylacetamide (5 mL) as starting materials, the title compound (91 mg, 38%) was obtained as a pale-yellow solid.

reactant | (methylsulfonyl)acetic acid | 0.73 mmol, 100 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 0.73 mmol, 63 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 0.48 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 1,3-dimethyl-N-{2-methyl-5-[(2-{[(methylsulfonyl)acetyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 91 mg, 38% | CN1N=C(C=C1C(=O)NC1=C(C=CC(=C1)OC=1C=CC=2N(N1)C=C(N2)NC(CS(=O)(=O)C)=O)C)C | C22H23N7O5S
